* Schematics Netlist *



L_L1         $N_0001 $N_0002  10m  
R_Rwy         0 $N_0003  10  
L_L2         $N_0002 $N_0003  10m  
C_C1         0 $N_0002  1u  
V_VUwe         $N_0001 0 DC 0V AC 1 
