* Schematics Netlist *



R_R1         $N_0002 $N_0001  4  
L_L1         $N_0001 $N_0003  0.3  
X_K1         $N_0004 $N_0002 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.001
+  Ropen=1Meg
X_K2         $N_0002 $N_0005 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.001
+  Ropen=1Meg
V_VD         $N_0005 $N_0003 0
V_VE         $N_0004 0 10
R_R2         $N_0006 $N_0003  6  
L_L2         $N_0006 0  0.3  
